US07939666B2
Stage 4: 4-(4-Carboxymethyl-phenoxy)-butyric acid methyl ester
4-(4-Benzyloxycarbonylmethyl-phenoxy)-butyric acid methyl ester (1.4 g, 4.09 mmol) was dissolved in EtOAc (60 ml). Pd/carbon (100 mg) was added and the reaction stirred under a hydrogen atmosphere (balloon) for 16 h at room temperature. The reaction mixture was filtered through a pad of celite and the pad washed with EtOAc. The filtrate was evaporated to dryness to give a white solid (1.03 g, 100% yield). LCMS purity 93%, m/z 253 [M++H]+.

reactant | 4-(4-Benzyloxycarbonylmethyl-phenoxy)-butyric acid methyl ester | 4.09 mmol, 1.4 g | COC(CCCOC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1)=O | C20H22O5
solvent | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
catalyst | Pd carbon | 100 mg | [Pd].[C]
product | 4-(4-Carboxymethyl-phenoxy)-butyric acid methyl ester | 1.03 g, 100% yield | COC(CCCOC1=CC=C(C=C1)CC(=O)O)=O | C13H16O5
